US07307094B2
A mixture of 2-(2-oxo-1,2-dihydropyridin-3-yl)benzoxazole-4-carboxylic acid (102 mg, 0.40 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (153 mg, 0.80 mmol), 1-hydroxybenzotriazole (108 mg, 0.80 mmol) and 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (135 mg, 0.49 mmol) in DMF (5 mL) was stirred at room temperature for 10 min, then triethylamine (0.22 mL, 1.60 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with dichloromethane and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with dichloromethane (3×100 mL). The combined organic layers were washed with water (2×50 mL), brine (2×50 mL), dried (Na2SO4), filtered and concentrated. The crude material was purified by preparative HPLC to afford N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(2-oxo-1,2-dihydropyridin-3-yl)benzoxazole-4-carboxamide (21 mg, 13%) as a yellow solid: 1H NMR (500 MHz, CDCl3) δ 8.94 (br s, 1H), 8.53 (dd, J=7.3, 1.7 Hz, 1H), 8.22 (d, J=7.7 Hz, 1H), 7.76-7.69 (m, 2H), 7.48 (t, J=7.9 Hz, 1H), 6.58 (t, J=6.7 Hz, 1H), 4.64-4.55 (m, 1H), 3.15-3.10 (m, 2H), 2.68-2.62 (m, 2H), 2.54 (s, 3H), 2.15-1.95 (m, 3H), 1.60-1.47 (m, 4H), 1.15-1.10 (m, 2H); MS (ESI+) m/z 393(M+H); HPLC>99% (AUC), tR=12.23 min.

reactant | 2-(2-oxo-1,2-dihydropyridin-3-yl)benzoxazole-4-carboxylic acid | 0.40 mmol, 102 mg | O=C1NC=CC=C1C=1OC=2C(N1)=C(C=CC2)C(=O)O | C13H8N2O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.80 mmol, 153 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.80 mmol, 108 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.49 mmol, 135 mg | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | triethylamine | 1.60 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(2-oxo-1,2-dihydropyridin-3-yl)benzoxazole-4-carboxamide | 21 mg, 13% | CN1C2CC(CC1CCC2)NC(=O)C=2C=CC=C1C2N=C(O1)C=1C(NC=CC1)=O | C22H24N4O3
